US08440666B2
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)propanamide
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic acid (40 mg, 0.099 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (38 mg, 0.199 mmol), 1-hydroxybenzotriazole anhydride (4 mg, 0.03 mmol) and triethylamine (28 μL, 0.199 mmol) in N,N-dimethylformamide (1 mL) were stirred with 4-picolylamine (20 μL, 0.199 mmol) at room temperature for 17.5 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/methanol=20/1) to give the desired product (25 mg, 52% yield).

reactant | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic acid | 0.099 mmol, 40 mg | BrC1=C(C=NN(C1=O)C(C(=O)O)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C17H24BrN3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.199 mmol, 38 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.199 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | 4-picolylamine | 0.199 mmol, 20 μL | N1=CC=C(C=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)propanamide | 25 mg, 52% yield | BrC1=C(C=NN(C1=O)C(C(=O)NCC1=CC=NC=C1)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C23H30BrN5O2
